US07414061B2
a) 5-Cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid ethyl ester
To a solution of N-hydroxybenzenecarboximidoyl chloride (Tetrahedron Letters, 2006, 47, 1457, 2006; 500 mg, 3.21 mmol) and cyclopropyl-propynoic acid ethyl ester (Organic Syntheses, 1988, 66, 173; 515 mg, 3.21 mmol) in diethyl ether (5 mL) was added dropwise over a period of 2 min at ambient temperature triethylamine (0.54 ml, 3.86 mmol) and the reaction mixture was stirred for 3 d at this temperature. The resulting suspension was diluted with tert-butylmethylether (5 mL) and water (10 mL). The aqueous layer was extracted with tert-butylmethylether (10 mL) and the organic layers were washed with water (10 mL) and brine (10 mL). Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate=98:2 to 80:20) afforded the title compound (414 mg, 50%) as a colorless liquid. MS: m/e=258.1[M+H]+.

reactant | N-hydroxybenzenecarboximidoyl chloride | 3.21 mmol, 500 mg | ON=C(C1=CC=CC=C1)Cl | C7H6ClNO
reactant | cyclopropyl-propynoic acid ethyl ester | 3.21 mmol, 515 mg | C(C)OC(C#CC1CC1)=O | C8H10O2
reactant | triethylamine | 3.86 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | tert-butylmethylether | 5 mL | C(C)(C)(C)OC | C5H12O
solvent | water | 10 mL | O | H2O
product | 5-Cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid ethyl ester | 414 mg, 50% | C(C)OC(=O)C=1C(=NOC1C1CC1)C1=CC=CC=C1 | C15H15NO3
